US07834034B2
6-(Carboxy-fluoro-methyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester.
Di-tert-butyl[2-(ethoxycarbonyl)-1-benzothien-6-yl](fluoro)malonate (9.3 g) was stirred in DCM (40 mL)/TFA (20 mL) at room temperature overnight. The solvent was removed in vacuo and the residue partitioned between saturated NaHCO3-EtOAc. The aqueous phase was acidified with 2N HCl and extracted with EtOAc. The combined organic extracts were dried over MgSO4 and concentrated in vacuo. The residue was suspended in H2O (50 mL) and heated to reflux for 2 hours. Room temperature was attained and the products extracted into EtOAc. The combined organic extracts were dried over MgSO4 and concentrated in vacuo to give the product as a pale yellow solid. 1H NMR (DMSO-d6) δ 13.60 (br s, 1H), 8.22 (s, 1H), 8.18 (s, 1H), 8.08 (d, J=8.4 Hz, 1H), 7.51 (d, J=8.4 Hz, 1H), 6.14 (d, J=47.4 Hz, 1H), 4.35 (q, J=7.2 Hz, 2H), 1.33 (t, J=7.2 Hz, 3H).

reactant | Di-tert-butyl[2-(ethoxycarbonyl)-1-benzothien-6-yl](fluoro)malonate | 9.3 g | C(C)(C)(C)OC(C(C(=O)OC(C)(C)C)(F)C1=CC2=C(C=C(S2)C(=O)OCC)C=C1)=O | C22H27FO6S
reactant | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 6-(Carboxy-fluoro-methyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)C(F)C(=O)O | C13H11FO4S
